US07608629B2
2,6-Difluoro-N-[3-(1-methyl-piperidin-4-yloxy)-phenyl]-benzamide hydrochloride
Using a method similar to Example 1, add 2,6-difluoro-benzoyl chloride (0.68 ml, 0.544 mmol) to a solution of 3-(1-methyl-piperidin-4-yloxy)-phenylamine (preparation 24, 102 mg, 0.494 mmol) in dioxane (3.5 mL) in a sealed tube and heat at 110° C. for 2 hr. Purification by SCX column, eluting with ammonia (2.0 N in methanol) gives the title compound as the free base (154 mg, 90%). Following a method similar to Example 1 gives the title compound as the hydrochloride salt (147 mg, white solid). Mp: 136-8° C.; mass spectrum (free base, ion spray): m/z=347.1 (M+1); 1H NMR (free base, CDCl3): 7.62 (bs, N—H), 7.47 (s, 1H), 7.42 (t, J=2.0 Hz, 7.4 Hz, 1H), 7.24 (t, J=8.1 Hz, 1H), 7.04-6.97 (m, 3H), 6.73 (dd, J=2.0 Hz, 8.1 Hz, 1H), 4.43-4.35 (bm, 1H), 2.75-2.67 (bm, 2H), 2.39-2.33 (bm, 2H), 2.32 (s, 3H), 2.09-2.00 (bm, 2H), 1.92-1.82 (bm, 2H). Analysis calculated for C19H21ClF2N2O2.0.5H2O: C, 58.24; H, 5.66; N, 7.15. Found C, 58.56; H, 5.50; N, 7.12.

reactant | 2,6-difluoro-benzoyl chloride | 0.544 mmol, 0.68 ml | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 3-(1-methyl-piperidin-4-yloxy)-phenylamine | 0.494 mmol, 102 mg | CN1CCC(CC1)OC=1C=C(C=CC1)N | C12H18N2O
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
product | 2,6-Difluoro-N-[3-(1-methyl-piperidin-4-yloxy)-phenyl]-benzamide hydrochloride | Cl.FC1=C(C(=O)NC2=CC(=CC=C2)OC2CCN(CC2)C)C(=CC=C1)F | InChI=1S/C19H20F2N2O2.ClH/c1-23-10-8-14(9-11-23)25-15-5-2-4-13(12-15)22-19(24)18-16(20)6-3-7-17(18)21;/h2-7,12,14H,8-11H2,1H3,(H,22,24);1H
